US03931177
3-(4-Amino-3-benzyloxybenzoyl)propionic acid was diazotised in aqueous hydrochloric acid with sodium nitrite and the resultant solution was treated with cuprous cyanide in aqueous potassium cyanide solution to give 3-(3-benzoyloxy-4-cyanobenzoyl)propionic acid.

reactant | 3-(4-Amino-3-benzyloxybenzoyl)propionic acid | NC1=C(C=C(C(=O)CCC(=O)O)C=C1)OCC1=CC=CC=C1 | C17H17NO4
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | potassium cyanide | [C-]#N.[K+]
solvent | hydrochloric acid | Cl | ClH
product | 3-(3-benzoyloxy-4-cyanobenzoyl)propionic acid | C(C1=CC=CC=C1)(=O)OC=1C=C(C(=O)CCC(=O)O)C=CC1C#N | C18H13NO5
